US07361678B2
1-[4-(4-methoxyphenoxy)phenyl]ethan-1-one (1 mmol) was brominated by General Procedure R1. The bromo ketone was condensed with 7-amino-2-Boc-1,2,3,4-tetrahydroisoquinoline following general procedure R2. The aminoketone intermediate was treated with n-pentanoyl chloride accoding to General Procedure R3. The product amide was then subjected to imidazole formation employing general procedure R4. The BOC group of the product was removed employing general procedure T1 to afford 7-{2-butyl-4-[4-(4-methoxy-phenoxy)-phenyl]-imidazol-1-yl}-1,2,3,4-tetrahydro-isoquinoline hydrochloride (yield 135 mg)

reactant | 1-[4-(4-methoxyphenoxy)phenyl]ethan-1-one | 1 mmol | COC1=CC=C(OC2=CC=C(C=C2)C(C)=O)C=C1 | C15H14O3
reactant | bromo ketone | BrC(=O)Br | CBr2O
reactant | 7-amino-2-Boc-1,2,3,4-tetrahydroisoquinoline | NC1=CC=C2CCN(CC2=C1)C(=O)OC(C)(C)C | C14H20N2O2
reactant | aminoketone | NC(=O)N | CH4N2O
reactant | n-pentanoyl chloride | C(CCCC)(=O)Cl | C5H9ClO
reactant | imidazole | N1C=NC=C1 | C3H4N2
product | 7-{2-butyl-4-[4-(4-methoxy-phenoxy)-phenyl]-imidazol-1-yl}-1,2,3,4-tetrahydro-isoquinoline hydrochloride | yield 135 mg | Cl.C(CCC)C=1N(C=C(N1)C1=CC=C(C=C1)OC1=CC=C(C=C1)OC)C1=CC=C2CCNCC2=C1 | InChI=1S/C29H31N3O2.ClH/c1-3-4-5-29-31-28(20-32(29)24-9-6-21-16-17-30-19-23(21)18-24)22-7-10-26(11-8-22)34-27-14-12-25(33-2)13-15-27;/h6-15,18,20,30H,3-5,16-17,19H2,1-2H3;1H
